US06486153B1
(c) 2-Bromo-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole
1-tert-Butoxycarbonyl-2-bromo-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole (7.12 g) was added to a 1 mol solution of sodium methoxide in methanol (200 ml) and the resulting mixture warmed to 60° C. for 2 h. After cooling the solvent was removed under reduced pressure and the residue purified immediately by flash chromatography (SiO2; n-hexane/ethyl acetate 10:1) to give the product as a pale yellow oil (4.79 g); 1H (250 MHz, CDCl3) δ1.60-2.00 (6H, br m), 3.03 (2H, t, J=7.5 Hz), 3.42 (1H, m), 3.67 (1H, m), 3.78 (1H, m), 3.83 (1H, m), 4.63 (1H, t, J=2.5 Hz), 7.09 (2H, m), 7.25 (1H, d, J=5.0 Hz), 7.58 (1H, d, J=5.0 Hz) and 8.09 (1H, br s).

reactant | 1-tert-Butoxycarbonyl-2-bromo-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole | 7.12 g | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC=C12)CCOC1OCCCC1)Br | C20H26BrNO4
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 2-Bromo-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole | 4.79 g | BrC=1NC2=CC=CC=C2C1CCOC1OCCCC1 | C15H18BrNO2
